US04115409
In a similar manner to that described above but using a mixture of 1-(benzo[b]furan-4-yloxy)-2,3-epoxypropane (1.9 g.), β-benzylamino-N-benzylpropionamide hydrochloride (3.05 g.), sodium hydrogen carbonate (0.84 g.), water (5 ml.) and isopropanol (40 ml.) there is obtained 1-(benzo[b]furan-4-yloxy)-3-β-(N-benzylcarbamoyl)ethylamino-2-propanol, m.p. 109°-110° C. The β-benzylamino-N-benzylpropionamide hydrochloride used as starting material may also be prepared in the manner described above, m.p. 237°-239° C.

reactant | 1-(benzo[b]furan-4-yloxy)-2,3-epoxypropane | 1.9 g | O1C2=C(C=C1)C(=CC=C2)OCC2CO2 | C11H10O3
reactant | β-benzylamino-N-benzylpropionamide hydrochloride | 3.05 g | Cl.C(C1=CC=CC=C1)NCCC(=O)NCC1=CC=CC=C1
reactant | sodium hydrogen carbonate | 0.84 g | C(O)([O-])=O.[Na+]
reactant | water | 5 ml | O | H2O
solvent | isopropanol | 40 ml | C(C)(C)O | C3H8O
product | 1-(benzo[b]furan-4-yloxy)-3-β-(N-benzylcarbamoyl)ethylamino-2-propanol | O1C2=C(C=C1)C(=CC=C2)OCC(CNCCC(NCC2=CC=CC=C2)=O)O | C21H24N2O4
